US06498169B1
Synthesis of 4-[N-(4-Butylphenyl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-5-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride
4-(4-Butylanilino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (147 mg) and 5-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (114 mg) were condensed in the same manner as described in Example 9. The title compound was obtained as yellow powder after converting a free base to a trihydrochloride.

reactant | 4-(4-Butylanilino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 147 mg | C(CCC)C1=CC=C(NC2CCN(CC2)CC2=CC(=NC=C2)C2=CC(=C(C(=C2)OC)OC)OC)C=C1 | C30H39N3O3
reactant | 5-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 114 mg | ClCC=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-(4-Butylphenyl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-5-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride | Cl.Cl.Cl.C(CCC)C1=CC=C(C=C1)N(CC=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C45H54N4O6.3ClH/c1-8-9-10-31-11-14-36(15-12-31)49(30-33-13-16-38(47-28-33)34-24-40(50-2)44(54-6)41(25-34)51-3)37-18-21-48(22-19-37)29-32-17-20-46-39(23-32)35-26-42(52-4)45(55-7)43(27-35)53-5;;;/h11-17,20,23-28,37H,8-10,18-19,21-22,29-30H2,1-7H3;3*1H
